US07589206B2
(e) 7-(3-Chloro-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid
A mixture of 7-chloro-3-methyl-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid ethyl ester (180 mg), 3-chloroaniline (160 μl), and methanesulfonic acid (98 μl) in 1,4-dioxane (5 ml) was heated under microwave conditions at 180° C. for 30 minutes. The solid mass obtained was suspended in ethanol (6 ml) and treated with a solution of potassium hydroxide (170 mg) in ethanol (2 ml) and then refluxed overnight. The ethanol was evaporated and replaced with methanol (8 ml) and potassium hydroxide (56 mg) added and then the mixture was refluxed overnight. The mixture was evaporated to dryness and the residue dissolved in water which washed twice with diethyl ether. The aqueous was then acidified with concentrated hydrochloric acid to afford a precipitate. The precipitate was filtered off and washed with water. The solid was then sucked dry and dried to afford the title compound (178 mg).

reactant | 7-chloro-3-methyl-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid ethyl ester | 180 mg | C(C)OC(=O)C=1C2=C(C(=NC1)Cl)NC=C2C | C11H11ClN2O2
reactant | 3-chloroaniline | 160 μl | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | methanesulfonic acid | 98 μl | CS(=O)(=O)O | CH4O3S
reactant | potassium hydroxide | 170 mg | [OH-].[K+]
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 7-(3-Chloro-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid | 178 mg | ClC=1C=C(C=CC1)NC1=NC=C(C2=C1NC=C2C)C(=O)O | C15H12ClN3O2
